US08748415B2
To a solution of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-tert-butoxy-N-(2-(dimethylamino)ethyl)-3-oxopropanamido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (31 mg, 0.038 mmol) in dichloromethane (1 ml) was added TFA (0.25 ml, 3.24 mmol). The mixture was stirred at rt for 3 h then was concentrated under reduced pressure. The residue was purified by prep HPLC. The fractions containing the expected product were combined and concentrated under reduced pressure to afford 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-carboxy-N-(2-(dimethylamino)ethyl)acetamido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid as a white solid (15 mg, 0.021 mmol, 56.1% yield). LCMS: m/e 701.5 (M+H)+, 2.11 min (method 6). 1H NMR (500 MHz, Acetic acid-d3 acid-d) δ ppm 8.04 (d, J=8.24 Hz, 2H), 7.31 (d, J=8.24 Hz, 2H), 5.38 (d, J=5.19 Hz, 1H), 4.85 (d, J=16.17 Hz, 1H), 4.69 (d, J=15.56 Hz, 1H), 3.86-4.13 (m, 2H), 2.97-3.82 (m, 6H), 2.62-2.73 (m, 1H), 2.13-2.24 (m, 2H), 1.06-1.92 (m, 38H), 1.03 (s, 3H), 1.01 (s, 3H).

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-tert-butoxy-N-(2-(dimethylamino)ethyl)-3-oxopropanamido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.038 mmol, 31 mg | C(C)(C)(C)OC(CC(=O)N(CCN(C)C)C[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C)=O | C52H80N2O5
reactant | TFA | 3.24 mmol, 0.25 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-carboxy-N-(2-(dimethylamino)ethyl)acetamido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 0.021 mmol, 15 mg, 56.1% yield | C(=O)(O)CC(=O)N(CCN(C)C)C[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C | C44H64N2O5
